US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-[3-(2-phenyl-benzoimidazol-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride
2-Phenyl-1H-benzimidazole(0.2 g) and potassium carbonate(0.29 g) were added to a DMF solution(5 ml) of 1-ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.49 g). The mixture was stirred at 60° C. for 7 hours. The reaction mixture was poured to ice water(50 ml), and the generated insoluble matter was separated. The insoluble matter was dissolved in ethyl acetate. The liquid was dried over sodium sulfate and condensed under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:3). The purified product was condensed under reduced pressure. A 1N-hydrogen chloride ethanol solution(1.0 ml) was added to an isopropyl alcohol solution of the residue. The mixture was condensed under reduced pressure. Ether was added to the residue. The generated insoluble matter was separated by filtration and dried to give the title compound(0.32 g) as a white powder.

reactant | 2-Phenyl-1H-benzimidazole | 0.2 g | C1(=CC=CC=C1)C1=NC2=C(N1)C=CC=C2 | C13H10N2
reactant | potassium carbonate | 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.49 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCI | C17H23IN2O3
reactant | hydrogen chloride ethanol | 1.0 ml | C(C)O.Cl
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-3,3,5-trimethyl-7-[3-(2-phenyl-benzoimidazol-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride | 0.32 g | Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN2C(=NC1=C2C=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H32N4O3.ClH/c1-5-33-25-17-16-22(20-26(25)32(4)28(35)30(2,3)29(33)36)37-19-11-18-34-24-15-10-9-14-23(24)31-27(34)21-12-7-6-8-13-21;/h6-10,12-17,20H,5,11,18-19H2,1-4H3;1H
